US03935209
A mixture of 3.5 g. 2-amino-4-chloro-1-nitrobenzene, 5.5 g. of potassium carbonate, 4.0 g. of 3-mercapto-1,2,4-triazole in 30 ml. dimethylformamide is heated under nitrogen for 4 hours at 130°-140°C. The mixture is cooled, diluted with water and the pH adjusted to about 6. The crude product is filtered off and recrystallized from methanol, yielding 2-amino-1-nitro-4-(1,2,4-triazol-3-ylthio)benzene.

reactant | 2-amino-4-chloro-1-nitrobenzene | NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H5ClN2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-amino-1-nitro-4-(1,2,4-triazol-3-ylthio)benzene | NC1=C(C=CC(=C1)SC1=NNC=N1)[N+](=O)[O-] | C8H7N5O2S
